US07834013B2
Racemic-(trans)-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic Acid (I-2n)
To a solution of {(4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol (0.10 g, 0.331 mmol) in dichloromethane (3 mL) was added Et3N (0.04 g, 0.39 mmol) and the mixture cooled to 0° C. The mixture stirred for 15 min after which methanesulfonyl chloride (0.04 g, 0.36 mmol) was added followed 30 min later by the addition of racemic-(trans)-2-(4-aminophenyl)cyclopropanecarboxylic acid (I-1) (0.09 g, 0.49 mmol). The solution stirred for 24 h after which it was poured into H2O, the organics extracted with dichloromethane, dried over MgSO4, and the solvents reduced in vacuo. The crude material was purified on silica gel eluting with an increasing gradient from hexanes to 30% ethyl acetate/hexanes to give the title compound as a yellow powder (0.03 g, 16%). 1H NMR (400 MHz, CDCl3) δ 8.01 (d, J=8.3 Hz, 2H), 7.65 (d, J=8.2 Hz, 2H), 6.98 (d, J=8.4 Hz, 2H), 6.62 (d, J=8.6 Hz, 2H), 4.47 (s, 2H), 3.50-3.47 (m, 1H), 3.18-3.15 (m, 1H), 2.53-2.51 (m, 1H), 1.80-1.77 (m, 1H), 1.61-1.58 (m, 1H), 1.37-1.26 (m, 7H).

reactant | (4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol | 0.331 mmol, 0.10 g | C(C)(C)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
reactant | Et3N | 0.39 mmol, 0.04 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.36 mmol, 0.04 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | racemic-(trans)-2-(4-aminophenyl)cyclopropanecarboxylic acid | 0.49 mmol, 0.09 g | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H11NO2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | Racemic-(trans)-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic Acid | 0.03 g, 16% | C(C)(C)C=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H23F3N2O2S
